US07247622B2
In a 100 ml two necked flask fitted with a magnetic stirrer, a rubber septum and connected to a hydrogenation apparatus palladium on carbon catalyst (10%, 300 mg) in ethyl acetate (13 ml) and water (13 ml) was prehydrogenated for 20 min at 0° C. A solution of p-nitrobenzyl (5R,6R)-3-[4-azido-1,1-dimethylbutyl]-6-[(S)-1-p-nitrobenzyloxycarbonyloxyethyl]-7-oxo-4-oxa-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (280 mg, 0.44 mmol) in ethyl acetate (10 ml) was then added with a syringe at 0° C. with stirring. After 50 min of stirring at 0° C. hydrogen uptake came to an end (90 ml of hydrogen was consumed). The catalyst was removed by filtration, washed with a small portion of ethyl acetate and water and the chilled two phase mixture allowed to separate. The aqueous phase was washed twice with portions (3 ml) of cold ethyl acetate and water and the ethyl acetate phases were reextracted twice with portions (3 ml) of water. Residual ethyl acetate was removed from the combined water phases in vacuum and then in high vacuum at 0° C. and the volume was reduced to 13 ml in high vacuum. The solution was lyophilized at −25° C. for three days to give (5R,6R)-3-[4-amino-1,1-dimethylbutyl]-6-[(S)-1-hydroxyethyl]-7-oxo-4-oxa-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid (YOB) as a colourless voluminous powder (98 mg, 75%)

reactant | p-nitrobenzyl (5R,6R)-3-[4-azido-1,1-dimethylbutyl]-6-[(S)-1-p-nitrobenzyloxycarbonyloxyethyl]-7-oxo-4-oxa-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.44 mmol, 280 mg | N(=[N+]=[N-])CCCC(C)(C)C1=C(N2C([C@@H]([C@H]2O1)[C@H](C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C29H30N6O11
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
solvent | ethyl acetate | 13 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 13 ml | O | H2O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | (5R,6R)-3-[4-amino-1,1-dimethylbutyl]-6-[(S)-1-hydroxyethyl]-7-oxo-4-oxa-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 98 mg, 75% | NCCCC(C)(C)C1=C(N2C([C@@H]([C@H]2O1)[C@H](C)O)=O)C(=O)O | C14H22N2O5
